US07723538B2
4-[3-(benzenesulfonylamino)-4,5-dimethoxy-benzoylamino]-benzoic acid, MS (ISP): m/e=455.2 (M−H), was prepared in analogy to example 31, steps A to D. Step C was performed using benzenesulfonyl chloride and yielded 4-[3-(benzenesulfonylamino)-4,5-dimethoxy-benzoylamino]-benzoic acid ethyl ester, which was hydrolyzed in step D.

reactant | 4-[3-(benzenesulfonylamino)-4,5-dimethoxy-benzoylamino]-benzoic acid | C1(=CC=CC=C1)S(=O)(=O)NC=1C=C(C(=O)NC2=CC=C(C(=O)O)C=C2)C=C(C1OC)OC | C22H20N2O7S
reactant | benzenesulfonyl chloride | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
product | 4-[3-(benzenesulfonylamino)-4,5-dimethoxy-benzoylamino]-benzoic acid ethyl ester | C(C)OC(C1=CC=C(C=C1)NC(C1=CC(=C(C(=C1)OC)OC)NS(=O)(=O)C1=CC=CC=C1)=O)=O | C24H24N2O7S
